data/rdb19/train.csv
rxn,smiles,ea
2708,[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([H:7])[C:8]([C:9]([H:17])([H:18])[H:19])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[C:20]([O:21][C:22](=[O:23])[C:24](=[C:25]([H:30])[H:31])[C:26]([H:32])([H:33])[H:34])([H:27])([H:28])[H:29]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([H:7])=[C:8]([C:9]([H:17])([H:18])[H:19])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[H:15][C:22]([O:21][C:20]([H:27])([H:28])[H:29])([O:23])[C:24](=[C:25]([H:30])[H:31])[C:26]([H:32])([H:33])[H:34],51.07857438363135
5527,[C:13]([C:14]([C:15]([H:16])[O:17][C:18](=[O:19])[C:20]([H:26])([H:27])[H:28])([H:24])[H:25])([H:21])([H:22])[H:23].[C:1]([C:2](=[O:3])[O:4][C:5](=[C:6]([H:11])[H:12])[H:10])([H:7])([H:8])[H:9]>>[C:13]([C:14](=[C:15]([H:16])[O:17][C:18](=[O:19])[C:20]([H:26])([H:27])[H:28])[H:24])([H:21])([H:22])[H:23].[C:1]([C:2]=[O:3])([H:7])([H:8])[H:9].[O:4]([C:5](=[C:6]([H:11])[H:12])[H:10])[H:25],74.11215349868871
3572,[C:17]([C:18](=[C:19]([H:26])[H:27])[C:20](=[O:21])[O:22][H:28])([H:23])([H:24])[H:25].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5]([H:6])[H:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])=[C:5]([H:6])[H:7])([H:11])[H:12])([H:8])([H:9])[H:10].[H:13][C:20]([C:18]([C:17]([H:23])([H:24])[H:25])=[C:19]([H:26])[H:27])([O:21])[O:22][H:28],44.48263903165935
974,[C:14]([C:15]([O:16][C:17](=[O:18])[C:19](=[C:20]([H:27])[H:28])[H:26])([H:24])[H:25])([H:21])([H:22])[H:23].[C:1]([C:2]([C:3]([H:4])[H:5])([C:6](=[O:7])[O:8][H:13])[H:12])([H:9])([H:10])[H:11]>>[C:15]([O:16][C:17](=[O:18])[C:19](=[C:20]([H:27])[H:28])[H:26])([H:24])[H:25].[C:1]([C:2](=[C:3]([H:4])[H:5])[C:6](=[O:7])[O:8][H:13])([H:9])([H:10])[H:11].[H:12][C:14]([H:21])([H:22])[H:23],76.58965134475147
3854,[C:13]([C:14]([C:15]([C:16]([H:25])([H:26])[H:27])[C:17](=[O:18])[O:19][H:28])([H:23])[H:24])([H:20])([H:21])[H:22].[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7]>>[C:1]([C:2]([C:3]=[C:4]([H:11])[H:12])([H:8])[H:9])([H:5])([H:6])[H:7].[H:10][C:15]([C:14]([C:13]([H:20])([H:21])[H:22])([H:23])[H:24])([C:16]([H:25])([H:26])[H:27])[C:17](=[O:18])[O:19][H:28],31.27063957374776
4425,[C:13]([C:14]([C:15]([C:16]([H:25])([H:26])[H:27])[C:17](=[O:18])[O:19][H:28])([H:23])[H:24])([H:20])([H:21])[H:22].[C:1]([C:2](=[C:3]([H:10])[H:11])[C:4](=[O:5])[O:6][H:12])([H:7])([H:8])[H:9]>>[C:1]([H:7])([H:8])([H:9])[C:15]([C:14]([C:13]([H:20])([H:21])[H:22])([H:23])[H:24])([C:16]([H:25])([H:26])[H:27])[C:17](=[O:18])[O:19][H:28].[C:2](=[C:3]([H:10])[H:11])[C:4](=[O:5])[O:6][H:12],67.88593591877725
3490,[C:17]([O:18][C:19](=[C:20]([H:25])[H:26])[H:24])([H:21])([H:22])[H:23].[C:1]([C:2]([C:3]([C:4]([H:11])([H:12])[H:13])[C:5]([H:14])([H:15])[H:16])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1]([C:2]([C:3]([C:4]([H:11])([H:12])[H:13])=[C:5]([H:15])[H:16])([H:9])[H:10])([H:6])([H:7])[H:8].[H:14][C:19]([O:18][C:17]([H:21])([H:22])[H:23])([C:20]([H:25])[H:26])[H:24],42.142220806359546
3027,[C:16]([O:17][C:18]([C:19]([H:27])([H:28])[H:29])([C:20]([H:21])[H:22])[H:26])([H:23])([H:24])[H:25].[C:1]([C:2]([O:3][C:4](=[O:5])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([O:3][C:4]([O:5][C:20]([C:18]([O:17][C:16]([H:23])([H:24])[H:25])([C:19]([H:27])([H:28])[H:29])[H:26])([H:21])[H:22])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],28.708966293779667
5432,[C:19]([C:20]([C:21]([H:22])[H:23])([O:24][C:25](=[O:26])[C:27]([H:32])([H:33])[H:34])[H:31])([H:28])([H:29])[H:30].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([N:5]([C:6](=[O:7])[H:18])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([N:5]([C:6]=[O:7])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[H:18][C:21]([C:20]([C:19]([H:28])([H:29])[H:30])([O:24][C:25](=[O:26])[C:27]([H:32])([H:33])[H:34])[H:31])([H:22])[H:23],15.283114495046902
4745,[C:1]([H:2])([H:3])[H:4].[C:5](=[C:6]([c:7]1[c:8]([H:16])[c:9]([H:17])[c:10]([H:18])[c:11]([H:19])[c:12]1[H:20])[H:15])([H:13])[H:14]>>[C:1]([H:2])([H:3])([H:4])[C:9]1([H:17])[C:8]([H:16])=[C:7]([C:6](=[C:5]([H:13])[H:14])[H:15])[C:12]([H:20])=[C:11]([H:19])[C:10]1[H:18],20.40049599893973
2400,[C:1]([C:2]([H:3])[H:4])([H:5])([H:6])[H:7].[C:8](=[C:9]([c:10]1[c:11]([H:19])[c:12]([H:20])[c:13]([H:21])[c:14]([H:22])[c:15]1[H:23])[H:18])([H:16])[H:17]>>[C:1](=[C:2]([H:3])[H:4])([H:6])[H:7].[H:5][C:11]1([H:19])[C:10]([C:9](=[C:8]([H:16])[H:17])[H:18])[C:15]([H:23])=[C:14]([H:22])[C:13]([H:21])=[C:12]1[H:20],38.614775877736975
1782,[C:15]([O:16][C:17](=[O:18])[C:19](=[C:20]([H:25])[H:26])[C:21]([H:27])([H:28])[H:29])([H:22])([H:23])[H:24].[C:1]([C:2]([C:3]([H:4])[C:5](=[O:6])[N:7]([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([H:4])([C:5](=[O:6])[N:7]([H:13])[H:14])[C:19]([C:17]([O:16][C:15]([H:22])([H:23])[H:24])=[O:18])([C:20]([H:25])[H:26])[C:21]([H:27])([H:28])[H:29])([H:11])[H:12])([H:8])([H:9])[H:10],18.87277418427402
